US06124323
4-Benzyl-1-(2-phenoxyethyl)piperidine
4-Benzylpiperidine was treated with 1-bromo-2-phenoxyethane and excess potassium carbonate as a solution in methylethylketone and heated at reflux for 12 hours. Standard workup and chromatography gave the title compound.

reactant | 4-Benzylpiperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | 1-bromo-2-phenoxyethane | BrCCOC1=CC=CC=C1 | C8H9BrO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methylethylketone | CC(=O)CC | C4H8O
product | 4-Benzyl-1-(2-phenoxyethyl)piperidine | C(C1=CC=CC=C1)C1CCN(CC1)CCOC1=CC=CC=C1 | C20H25NO
